US05576334
A 55% dispersion of sodium hydride in mineral oil (5.46 g) was added by portions to a solution of di-t-butyl malonate (25.8 g) in t-butanol (100 ml) under argon. The reaction mixture was stirred at ambient temperature for 1 hour before sodium iodide (1.53 g) and 2-ethoxyethyl chloride (13.1 ml) were added. The resultant mixture was heated to reflux for 48 hours and then evaporated to dryness. The residue was partitioned between water and ether, the organic layer was separated, washed with brine, dried (MgSO4) and evaporated. The resultant oily residue was purified by flash chromatography on silica by elution with 10% ethyl acetate/hexane to give t-butyl 2-t-butoxycarbonyl-4-ethoxybutyrate (21 g) as a colourless oil: NMR Spectrum (CDCl3) 1.19 (3H, t), 1.45 (18H, s), 2.07 (2H, m), 3.34 (1H, t), 3.45 (4H, m); Mass Spectrum m/Z 289 (M+H)+.

reactant | sodium hydride | [H-].[Na+]
reactant | di-t-butyl malonate | 25.8 g | C(CC(=O)OC(C)(C)C)(=O)OC(C)(C)C | C11H20O4
reactant | sodium iodide | 1.53 g | [I-].[Na+]
reactant | 2-ethoxyethyl chloride | 13.1 ml | C(C)OCCCl | C4H9ClO
solvent | t-butanol | 100 ml | C(C)(C)(C)O | C4H10O
product | t-butyl 2-t-butoxycarbonyl-4-ethoxybutyrate | 21 g | C(C)(C)(C)OC(=O)C(C(=O)OC(C)(C)C)CCOCC | C15H28O5
